US07592457B2
3-methyl-7-(4-methyl-piperazine-1-yl)-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione
A mixture of 3-(4-nitro-phenyl)-7-chloro-3-methyl-1H-quinoline-2,4-dione (0.3 g, 0.90 mmol) and 1-methylpiperazine (3.0 mL) was heated at reflux temperature overnight. Excessive 1-methylpiperazine was removed by evaporation in vacuo. The residue was diluted with water (50 mL), and the resulting suspension was extracted with ethyl acetate (50 mL×3). The organic layer was washed with brine (50 ml×2), dried over anhydrous MgSO4, and concentrated under reduced pressure. The pure objective compound (0.11 g, 31%) was obtained as yellow solid by a flash column chromatography (CH2Cl2: MeOH=20:1): 1H NMR (200 MHz, CDCl3) δ 1.90 (s, 3H, CH3), 2.35 (s, 3H, NCH3), 2.50-2.55 (m, 4H, NCH2), 3.35-3.44 (m, 4H, NCH2), 6.13 (d, J=2.4 Hz, 1H, ArH), 6.64 (dd, J=9.2, 2.4 Hz, 1H, ArH), 7.52 (d, J=9.0 Hz, 2H, ArH), 7.82 (d, J=8.8 Hz, 1H, ArH), 8.15 (d, J=9.2 Hz, 2H, ArH); m.p. 150-151° C.; MS(EI) m/e 394 [M+].

reactant | 3-(4-nitro-phenyl)-7-chloro-3-methyl-1H-quinoline-2,4-dione | 0.90 mmol, 0.3 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(C(NC2=CC(=CC=C2C1=O)Cl)=O)C | C16H11ClN2O4
reactant | 1-methylpiperazine | 3.0 mL | CN1CCNCC1 | C5H12N2
product | 3-methyl-7-(4-methyl-piperazine-1-yl)-3-(4-nitro-phenyl)-1H-quinoline-2,4-dione | 0.11 g, 31% | CC1(C(NC2=CC(=CC=C2C1=O)N1CCN(CC1)C)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C21H22N4O4
